US05811389
100 mg of benzyl 5-[(N-benzyloxycarbonyl-L-valyl-L-alanyl-L-alanyl-L-phenylalanyl-L-leucyl-L-alanyl-L-leucyl-L-alanyl)aminomethyl]-3,6-dimethoxy-9,9-dimethylxanthene-4-acetate (benzyl 5-[(N-benzyloxycarbonyl-SEQ ID NO:9)aminomethyl]-3,6-dimethoxy-9,9-dimethylxanthene-4-acetate) were dissolved in 200 ml of hexafluoroisopropanol, treated with 60 mg of palladium on calcium carbonate (10%) and stirred under hydrogen for 3 hours. After filtering the catalyst the filtrate was concentrated. The residue remaining was washed several times with methanol and thereafter chromatographed over silica gel in chloroform/methanol/hexafluoroisopropanol, whereby 65 mg of 3,6-dimethoxy-9,9-dimethyl-5-[(L-valyl-L-alanyl-L-alanyl-L-phenylalanyl-L-leucyl-L-alanyl-L-leucyl-L-alanyl)aminomethyl]xanthene-4-acetic acid (3,6-dimethoxy-9,9-dimethyl-5-[(SEQ ID NO:9)aminomethyl]xanthene-4-acetic acid) were obtained; IR 3393, 3288, 2963, 1685, 1636, 1531 cm-1.

reactant | benzyl 5-[(N-benzyloxycarbonyl-L-valyl-L-alanyl-L-alanyl-L-phenylalanyl-L-leucyl-L-alanyl-L-leucyl-L-alanyl)aminomethyl]-3,6-dimethoxy-9,9-dimethylxanthene-4-acetate | 100 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)N[C@@H](C)C(=O)N[C@@H](C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](C)C(=O)NCC1=C2OC=3C(=C(C=CC3C(C2=CC=C1OC)(C)C)OC)CC(=O)OCC1=CC=CC=C1 | C73H95N9O15
reactant | 3,6-dimethoxy-9,9-dimethylxanthene-4-acetate | COC=1C=CC=2C(C3=CC=C(C=C3OC2C1CC(=O)[O-])OC)(C)C
solvent | hexafluoroisopropanol | 200 ml | FC(C(C(F)(F)F)O)(F)F | C3H2F6O
catalyst | palladium on calcium carbonate | 60 mg | [Pd] | Pd
product | xanthene-4-acetic acid | C1=CC=C(C=2OC3=CC=CC=C3CC12)CC(=O)O | C15H12O3
